US07262023B2
A 2 l Erlenmeyer flask that contained 500 ml of a nutrient solution, sterilized for 30 minutes at 121° C. in an autoclave and consisting of 3% by weight of glucose, 1% by weight of corn steep liquor, 0.2% by weight of NaNO3, 0.1% by weight of KH2PO4, 0.2% by weight of K2HPO4, 0.05% by weight of KCl, 0.05% by weight of MgSO47H2O, and 0.002% by weight of FeSO47H2O (pH 6.0), was inoculated with a half slant rod culture of the strain Aspergillus ochraceus (CBS 13252) and shaken for 72 hours at 28° C. in a rotary shaker at 165 rpm. With this preculture, a 10 l fermenter was inoculated, and said fermenter was coated with 9.5 l of a sterile medium of the same final composition as described for the preculture. In addition, before the sterilization, another 0.5 ml of silicone oil and 0.5 ml of synperonic were added for foam abatement. After a growth phase of 6 hours at 0.7 bar of overpressure, a temperature of 28° C., an aeration of 5 l/minute and a stirring speed of 350 rpm, a solution of 1.0 g of 7α-methylestr-4-ene-3,17-dione in 15 ml DMF was added. Stirring was continued, and it was aerated. After 22 hours, the culture broth was harvested and extracted twice for 4 hours with 7 l of methyl isobutyl ketone. The combined organic phases were evaporated to the dry state. The residue was dissolved to a large extent in methanol. The silicone oil was filtered off. It was concentrated by evaporation, and after chromatography on silica gel with a gradient that consists of dichloromethane and acetone, 0.78 g (74%) of 11α-hydroxy-7α-methylestr-4-ene-3,17-dione was isolated. After recrystallization from acetone/diisopropyl ether, 311 mg (29.6%) of white crystals with a melting point of 200° C. and [α]D=+52° (CHCl3, c=0.5905) was isolated.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | KCl | [Cl-].[K+]
reactant | 7α-methylestr-4-ene-3,17-dione | 1.0 g | C[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C19H26O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 11α-hydroxy-7α-methylestr-4-ene-3,17-dione | 0.78 g, 74% | O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H26O3
